US08629270B2
(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
A solution of N-[(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (645 mg, 1.47 mmol), O-methylhydroxylamine hydrochloride (613 mg, 7.34 mmol), and pyridine (1.16 g, 14.7 mmol) in ethanol (10 mL) is stirred at 55° C. for 4 hours. The mixture is quenched with a solution of saturated sodium bicarbonate in water and extracted with ethyl acetate. The organic layers are combined, dried, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:1) to hexane/ethyl acetate (0:1). The residue is further purified by portioning between ethyl acetate and 1 N hydrochloric acid. The acidic aqueous phase is collected and the pH is adjusted to >8 with 5 N sodium hydroxide. The basic aqueous phase is extracted with dichloromethane, dried and concentrated to give the title compound as the free base. The free base is dissolved in dichloromethane. To the solution is added a saturated solution of hydrogen chloride in dichloromethane, followed by diethyl ether (10 mL). The resulting white solid is collected by filtration to give the title compound (0.40 g, 74%). ES/MS (m/e): 336 (M+H).

reactant | N-[(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 1.47 mmol, 645 mg | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C=1SC=CC1 | C21H18FN5OS2
reactant | O-methylhydroxylamine hydrochloride | 7.34 mmol, 613 mg | Cl.CON
reactant | pyridine | 14.7 mmol, 1.16 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | Cl.FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC=CC1 | InChI=1S/C14H14FN5S2.ClH/c15-10-4-17-13(18-5-10)20-6-9-7-22-12(16)19-14(9,8-20)11-2-1-3-21-11;/h1-5,9H,6-8H2,(H2,16,19);1H/t9-,14-;/m0./s1
